US06548511B1
At room temperature, hexane solution of sulfuryl chloride (1.2 M, 0.56 ml, 0.67 mmol) was added to a mixture of 3-allyl-2-(2,5-bis(trifluoromethyl)phenyl)amino-6-trifluoromethyl-4-(3H)-pyrimidinone (0.29 g, 0.67 mmol) and acetic acid (6 ml), followed by stirring for 1 hour. After completion of the reaction, ether (30 ml) and saturated sodium bicarbonate aqueous solution (10 ml) were added to the reaction solution to separate the organic layer, and the resulting aqueous layer was extracted with ether (20 ml×2). The organic layers were combined, washed with saturated sodium bicarbonate aqueous solution and saturated brine in that order and then dried over anhydrous sodium sulfate. The drying agent was removed by filtration, and the solvent was evaporated under a reduced pressure from the resulting filtrate. By purifying the thus obtained crude product by a silica gel column chromatography (hexane:ethyl acetate=3:1), 3-allyl-2-{2,5-bis(trifluoromethyl)phenyl}amino-5-chloro-6-trifluoromethyl-4(3H)-pyrimidinone [Compound No. 67] was obtained as a white solid.

reactant | hexane | CCCCCC | C6H14
reactant | sulfuryl chloride | 0.67 mmol, 1.2 M, 0.56 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 3-allyl-2-(2,5-bis(trifluoromethyl)phenyl)amino-6-trifluoromethyl-4-(3H)-pyrimidinone | 0.67 mmol, 0.29 g | C(C=C)N1C(=NC(=CC1=O)C(F)(F)F)NC1=C(C=CC(=C1)C(F)(F)F)C(F)(F)F | C16H10F9N3O
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 3-allyl-2-{2,5-bis(trifluoromethyl)phenyl}amino-5-chloro-6-trifluoromethyl-4(3H)-pyrimidinone | Yield: 86.3% | C(C=C)N1C(=NC(=C(C1=O)Cl)C(F)(F)F)NC1=C(C=CC(=C1)C(F)(F)F)C(F)(F)F | C16H9ClF9N3O
